US07902356B2
1-[3-(2-Methoxy-4-nitro-phenyl)-prop-2-ynyl]-pyrrolidine
Dissolve 1-iodo-2-methoxy-4-nitro-benzene (618 mg, 2.21 mmol) in acetonitrile (10 mL) and treat sequentially with 1-prop-2-ynyl-pyrrolidine (352 mg, 3.22 mmol), Et3N (2 mL), CuI (77 mg, 0.404 mmol) and Pd(PPh3)4 (360 mg, 0.311 mmol). Stir the mixture at room temperature for 3 h, then dilute with EtOAc (50 mL) and wash with saturated NaHCO3 (30 mL). Dry, filter and concentrate the organic solution. Purify the crude material by flash chromatography, using a linear gradient of 50% EtOAc/hexanes to 100% EtOAc, to give the title compound as an orange oil (292 mg, 51%). MS (ES+) 261.1 (M+1)+. 1H NMR (400 MHz, CDCl3) δ: 7.77 (dd, 1H, J=8.3, 2.2 Hz), 7.70 (d, 1H, J=2.2 Hz), 7.50 (d, 1H, J=8.3 Hz), 3.95 (s, 3H), 3.72 (s, 2H), 2.75-2.70 (m, 4H), 1.87-1.83 (m, 4H).

reactant | 1-iodo-2-methoxy-4-nitro-benzene | 2.21 mmol, 618 mg | IC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6INO3
reactant | 1-prop-2-ynyl-pyrrolidine | 3.22 mmol, 352 mg | C(C#C)N1CCCC1 | C7H11N
reactant | Et3N | 2 mL | CCN(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.404 mmol, 77 mg | [Cu]I
catalyst | Pd(PPh3)4 | 0.311 mmol, 360 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[3-(2-Methoxy-4-nitro-phenyl)-prop-2-ynyl]-pyrrolidine | 292 mg, 51% | COC1=C(C=CC(=C1)[N+](=O)[O-])C#CCN1CCCC1 | C14H16N2O3
